US07491710B2
112 μl (1.2 eq; 0.667 mmol) of trifluoromethanesulfonic anhydride and 337 μl (17.5 eq; 49.557 mmol) of pyridine, under an argon atmosphere, are added dropwise to a solution of 98 mg (1 eq; 0.556 mmol) of 1-(5-hydroxyindazol-1-yl)ethanone in 10 ml of dichloromethane on amylene, pre-cooled to 0° C. The medium is stirred and kept at 0° C. overnight under an argon atmosphere. 112 μl of trifluoromethanesulfonic anhydride and 337 μl of pyridine are added to the medium, which is stirred for 2 hours at 0° C. 112 μl of trifluoromethanesulfonic anhydride and 337 μl of pyridine are then added, and the medium is then stirred for 3 hours at 0° C. The reaction mixture is washed with 10 ml of water. The aqueous phase is treated with 2 times 10 ml of dichloromethane. The organic phase is dried over magnesium sulfate and then filtered and the solvent is evaporated off under reduced pressure in a rotary evaporator to obtain 168.9 mg of trifluoromethanesulfonic acid 1-acetyl-1H-indazol-5-yl ester are obtained.

reactant | trifluoromethanesulfonic anhydride | 0.667 mmol, 112 μl, 1.2 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 49.557 mmol, 337 μl, 17.5 eq | N1=CC=CC=C1 | C5H5N
reactant | 1-(5-hydroxyindazol-1-yl)ethanone | 0.556 mmol, 98 mg, 1 eq | OC=1C=C2C=NN(C2=CC1)C(C)=O | C9H8N2O2
reactant | trifluoromethanesulfonic anhydride | 112 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 337 μl | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 112 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 337 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | trifluoromethanesulfonic acid 1-acetyl-1H-indazol-5-yl ester | 168.9 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
